US08455534B2
Step 1: (6-Chlorohex-1-yn-1-yl)trimethylsilane
To a solution of 6-chlorohex-1-yne (100 mL, 94.6 g, 0.82 mol) in anhydrous Et2O (500 mL) at −78° C., n-butyllithium (2.5 M in hexane, 360 mL, 0.90 mol) was added over 40 minutes. The resulting mixture was stirred for 30 minutes at −78° C. Chlorotrimethylsilane (125 mL, 1.0 mol) was then added. The mixture was allowed to warm to room temperature and stirred for 16 h. The reaction mixture was carefully quenched with saturated aqueous NH4Cl (300 mL) at room temperature and extracted with Et2O (2×200 mL). The combined organic layers were washed with brine (200 mL), dried over anhydrous Na2SO4, and concentrated in vacuo to afford the title compound (144 g, yield 93%). 1H NMR (DMSO-d6, 400 MHz): δ 3.65 (t, 2H), 2.25 (t, 2H), 1.82-1.75 (m, 2H), 1.58-1.51 (m, 2H), 0.12 (s, 9H).

reactant | 6-chlorohex-1-yne | 0.82 mol, 100 mL, 94.6 g | ClCCCCC#C | C6H9Cl
reactant | n-butyllithium | 0.90 mol, 2.5 M, 360 mL | C(CCC)[Li]
reactant | Chlorotrimethylsilane | 1.0 mol, 125 mL | Cl[Si](C)(C)C | C3H9ClSi
solvent | Et2O | 500 mL | CCOCC | C4H10O
product | (6-Chlorohex-1-yn-1-yl)trimethylsilane | 144 g, yield 93% | ClCCCCC#C[Si](C)(C)C | C9H17ClSi
